US08183398B2
Chloro-kojic Acid (20.0 g; 125 mmol)—an inhibitor of tyrosinase with an EC50 of 6.8 μM—was added in portions to HPLC grade water (60 mL) and heated with an oil bath to ˜50° C. Zinc dust (16.2 grams) was carefully added in portions (5 min). An addition funnel was then attached. The reaction temperature was then increased to ˜70° C. and concentrated HCl (37 mL) was added drop-wise over 60 min; the reaction was vigorously stirred for an additional 3 hours. Next, excess zinc was removed via hot Büchner filtration. Standard extraction and purification methods afforded allomaltol (10.3 g; 81.7 mmol; 65% yield); see Liu, Z. D. et al, Bioorg. Med. Chem. 2001, 9, 563-573. Allomaltol was found to be a more potent inhibitor of tyrosinase than kojic acid with an EC50 of 3.4 μM. 1H NMR (DMSO-d5) δ 9.3-8.3 (br s, 1H; 5-OH); 7.97 (s, 1H; 6-H); 6.23 (s, 1H; 3-H); 2.24 (s, 3H; 2-CH3).

reactant | Chloro-kojic Acid | 125 mmol, 20.0 g | C1=C(OC=C(C1=O)O)CCl | C6H5ClO3
reactant | HCl | 37 mL | Cl | ClH
catalyst | Zinc | 16.2 grams | [Zn] | Zn
solvent | water | 60 mL | O | H2O
product | 5-hydroxy-2-methyl-4H-pyran-4-one | 81.7 mmol, 10.3 g, 65% yield | OC=1C(C=C(OC1)C)=O | C6H6O3
